US07504413B2
3-chloro-N′-(2-cyanoethyl)-4-[(1-methylethyl)oxy]-N′-((4-[(phenylmethyl)oxy]phenyl}methyl)benzohydrazide
A solution of pentafluorophenyl 3-chloro-4-[(1-methylethyl)oxy]benzoate (0.100 g, 0.263 mmol) in methanol (5.0 mL) was treated with 3-hydrazinopropanenitrile (0.023 mL, 0.289 mmol) and heated to reflux for 1 h. Following cooling, 4-(benzyloxy)benzaldehyde (0.067 g, 0.315 mmol), sodium cyanoborohydride (0.020 g, 0.315 mmol), and p-toluenesulfonic acid monohydrate (0.060 g, 0.315 mmol) were added and the solution stirred 30 min. at ambient temperature. Additional 4-(benzyloxy)benzaldehyde (0.067 g, 0.315 mmol), sodium cyanoborohydride (0.040 g, 0.637 mmol), and p-toluenesulfonic acid monohydrate (0.100 g, 0.526 mmol) were added and the solution stirred overnight at ambient temperature. The reaction was quenched with 6N aqueous NaOH, diluted with brine, and extracted thrice with EtOAc. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo. Purification via flash column chromatography (30-80% EtOAc/hexanes) gave the title compound as a white solid (0.077 g; 61%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.61 (d, J=2.3 Hz, 1H) 7.45 (dd, J=8.8, 2.2 Hz, 2H) 7.42 (s, 1H) 7.36-7.41 (m, 2H) 7.32 (tt, J=7.0, 1.8 Hz, 1H) 7.28 (s, 1H) 7.17 (br. s., 1H) 6.94 (d, J=8.6 Hz, 2H) 6.88 (d, J=8.6 Hz, 1H) 5.05 (s, 2H) 4.61 (qq, J=6.0 Hz, 1H) 4.22 (s, 2H) 3.39 (t, J=6.6 Hz, 2H) 2.60 (t, J=6.6 Hz, 2H) 1.39 (d, J=6.1 Hz, 6H). MS (ES+) m/e 478 [M+H]+.

reactant | pentafluorophenyl 3-chloro-4-[(1-methylethyl)oxy]benzoate | 0.263 mmol, 0.100 g | ClC=1C=C(C(=O)OC2=C(C(=C(C(=C2F)F)F)F)F)C=CC1OC(C)C | C16H10ClF5O3
reactant | 3-hydrazinopropanenitrile | 0.289 mmol, 0.023 mL | N(N)CCC#N | C3H7N3
reactant | 4-(benzyloxy)benzaldehyde | 0.315 mmol, 0.067 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | sodium cyanoborohydride | 0.315 mmol, 0.020 g | C(#N)[BH3-].[Na+]
reactant | p-toluenesulfonic acid monohydrate | 0.315 mmol, 0.060 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 4-(benzyloxy)benzaldehyde | 0.315 mmol, 0.067 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | sodium cyanoborohydride | 0.637 mmol, 0.040 g | C(#N)[BH3-].[Na+]
reactant | p-toluenesulfonic acid monohydrate | 0.526 mmol, 0.100 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 5.0 mL | CO | CH4O
product | 3-chloro-N′-(2-cyanoethyl)-4-[(1-methylethyl)oxy]-N′-((4-[(phenylmethyl)oxy]phenyl}methyl)benzohydrazide | 0.077 g, 61% | ClC=1C=C(C(=O)NN(CC2=CC=C(C=C2)OCC2=CC=CC=C2)CCC#N)C=CC1OC(C)C | C27H28ClN3O3
